US04908372
To a stirred, room temperature, solution of 1-[4-(1,1-dimethylethyl)phenyl]-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbonyl]-1-piperidinyl]-1-butanone (2.1 g, 3.9×10-3 mole) and methanol (80 ml) was added NaBH4 (0.42 g, 1.1×10-2 mole). After stirring overnight, the methanol was evaporated at reduced pressure. The concentrate was dissolved in a two phase mixture of EtOAc/H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc. The EtOAc extracts were combined, washed with saturated aqueous NaCl, and dried over anhydrous MgSO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a solid. Crystallization from cyclohexane/hexane afforded α-[1-[4-[4-(1,1-dimethylethyl)phenyl]-4-hydroxybutyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazole-2methanol as a colorless solid: 1.6 g (75%), m.p. 87°-90° C.

reactant | 1-[4-(1,1-dimethylethyl)phenyl]-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbonyl]-1-piperidinyl]-1-butanone | 3.9×10-3 mole, 2.1 g | CC(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(=O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C34H38FN3O2
reactant | NaBH4 | 1.1×10-2 mole, 0.42 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | α-[1-[4-[4-(1,1-dimethylethyl)phenyl]-4-hydroxybutyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazole-2methanol | CC(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)O | C34H42FN3O2
